US05840732
ii) Synthesis of 5-butylidene-3-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride
To a solution of 0.43 g (1.0 mmol) of 5-butylidene-3-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 20 ml of methanol, 0.13 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 0.45 g (89.4%, yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 1.0 mmol, 0.43 g | C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C(=CN2)CN(C)C)=O | C21H28N4O2S2
reactant | hydrochloric acid | 0.13 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-butylidene-3-[4-(3-dimethylaminomethylimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride | Cl.Cl.C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C(=CN2)CN(C)C)=O | InChI=1S/C21H28N4O2S2.2ClH/c1-4-5-9-17-20(26)24(21(27)29-17)12-6-7-13-28-19-11-8-10-18-22-14-16(25(18)19)15-23(2)3;;/h8-11,14H,4-7,12-13,15H2,1-3H3;2*1H
